* Z:\mnt\design.r\spice\examples\4000.asc
M§Q1 N001 N007 N009 N009 BSC123N08NS3
M§Q2 N009 N012 0 0 BSC123N08NS3
D1 N002 N004 MBRS140
C1 N004 N009 .1µ
C2 N013 N014 47n
D2 0 N009 MBRS1100
L1 N009 N010 10µ
R1 N010 N003 3m
R2 N011 0 49.9K
C3 N006 0 .002µ
C4 N003 0 100µ
D3 N003 N002 1N4148
R3 N008 N003 150K
R4 0 N008 16.2K
C5 N002 0 1µ
XU1 N001 N005 N006 N008 N008 N013 MP_01 N011 N003 N010 0 N012 N002 N009 N007 N004 0 LT3845A
R5 N032 N005 1Meg
R6 IN N020 1.1Meg
R7 N020 0 100K
C6 IN 0 1µ
C7 N026 0 10n
C8 N028 0 10n
R8 N032 N025 100K
R9 N032 N023 100K
M§Q3 N003 N015 OUT OUT Si4427DY
M§Q4 N018 N017 N016 N016 Si4427DY
R10 OUT N019 1.15Meg
R11 N019 N021 127K
R12 N021 N024 133K
R13 N018 N024 1.13Meg
C9 N032 0 1µ
R14 N032 N027 10K
R15 0 N027 10K
R16 0 N031 22.1K
R17 0 N030 24.9K
C10 N029 0 .01µ
R18 OUT N016 5m
C11 N013 0 2200p
C12 N018 0 500µ
D4 0 N020 2V
XU2 N020 N005 N026 N033 N022 N028 N031 N030 N029 0 N023 N025 N032 N027 N021 N024 N018 N017 N016 OUT N019 N015 N003 N013 N014 N001 IN LTC4000 period=2
V1 IN 0 36
R19 IN N001 5m
C13 N001 0 100µ
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
.model 2V D(Ron=100 Roff=1G epsilon=1 Vrev=2 revepsilon=.1)
.lib LT3845A.sub
.lib LTC4000.sub
.backanno
.end
